US04558155
N-[2-(3,5-Dichlorophenoxy)ethyl]-2-methylpropanamine Hydrochloride
The title compound was prepared by the method of Preparation 34 from 2-(3,5-dichlorophenoxy)-1-bromoethane and isobutylamine (72 hr) and hydrogen chloride. The free base was obtained as an oil. The hydrochloride salt melted at 190°-191.5° C.

reactant | 2-(3,5-dichlorophenoxy)-1-bromoethane | ClC=1C=C(OCCBr)C=C(C1)Cl | C8H7BrCl2O
reactant | isobutylamine | C(C(C)C)N | C4H11N
reactant | hydrogen chloride | Cl | ClH
product | N-[2-(3,5-Dichlorophenoxy)ethyl]-2-methylpropanamine Hydrochloride | Cl.ClC=1C=C(OCCNCC(C)C)C=C(C1)Cl | InChI=1S/C12H17Cl2NO.ClH/c1-9(2)8-15-3-4-16-12-6-10(13)5-11(14)7-12;/h5-7,9,15H,3-4,8H2,1-2H3;1H
